US07186729B2
Step 3: 4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidine-1-carboxylic acid tert-butyl ester
To an ice-cooled solution 3,3-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (1.6 g, 7.2 mmol) in THF (20 mL) was added 4-chlorophenylmagnesium bromide (1 M in ether, 15 mL, 15 mmol). The solution was allowed to warm to about room temperature, then stirred at room temperature for about 22 hours. The reaction was quenched with aqueous ammonium chloride and extracted with ethyl acetate. The combined organic layers were concentrated in vacuo, then purified by flash chromatography on silica gel (35 g SiO2, gradient elution from 100% hexane to 100% ethyl acetate) to yield the title compound as a colorless oil.

reactant | 3,3-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 7.2 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
reactant | 4-chlorophenylmagnesium bromide | 15 mmol, 1 M, 15 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)(C)C | C18H26ClNO3
